US06262080B1
(S)-3-((S)-2-mercapto-6-(pyrid-4-ylcarbonylamino)hexamido)-3-phenethyl-1-((S)-1-methylcarbamoyl-2-phenylethyl)pyrrolidin-2-one
Combine (S)-3-((S)-2-(p-methoxybenzylthio)-6-(pyrid-4-ylcarbonylamino)hexamido)-3-phenethyl-1-((S)-1-methylcarbamoyl-2-phenylethyl)pyrrolidin-2-one (122 mg, 0.166 mmol), mercuric acetate (66 mg, 0.207 mmol), and anisole (0.18 mL, 1.7 mmol) in dichloromethane (5 mL). Cool in an ice bath and degas by repeated cycles of vacuum and filling with nitrogen. Add trifluoroacetic acid (2 mL). After 3 hours, bubble hydrogen disulfide gas through the reaction mixture for about 15 minutes to give a black precipitate. Remove the precipitate by filtration and rise with dichloromethane. Evaporate the filtrate in vacuo and remove residual trifluoroacetic acid by coevaporation with carbon tetrachloride to give a residue. Triturate the residue sequentially with hexane, diethyl ether, and then hexane to give the title compound as a solid (102 mg, 84%). 13C NMR (CDCl3) d 24.4, 26.5, 27.6, 29.4, 33.9, 35.2, 36.9, 39.8, 42.0, 46.2, 61.7, 61.9, 123.8, 126.8, 126.9, 128.3, 128.6, 128.86, 128.93, 137.7, 140.2, 145.1, 147.0, 163.6, 169.3, 173.0, 173.5. MS Calculated for C34H41N5O4S.C2HF3O2=615.8.114.0. Found (M+H)+=616.

reactant | (S)-3-((S)-2-(p-methoxybenzylthio)-6-(pyrid-4-ylcarbonylamino)hexamido)-3-phenethyl-1-((S)-1-methylcarbamoyl-2-phenylethyl)pyrrolidin-2-one | 0.166 mmol, 122 mg | COC1=CC=C(CS[C@H](C(=O)N[C@@]2(C(N(CC2)[C@@H](CC2=CC=CC=C2)C(NC)=O)=O)CCC2=CC=CC=C2)CCCCNC(=O)C2=CC=NC=C2)C=C1 | C42H49N5O5S
reactant | anisole | 1.7 mmol, 0.18 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-3-((S)-2-mercapto-6-(pyrid-4-ylcarbonylamino)hexamido)-3-phenethyl-1-((S)-1-methylcarbamoyl-2-phenylethyl)pyrrolidin-2-one | 102 mg, 84% | S[C@H](C(=O)N[C@@]1(C(N(CC1)[C@@H](CC1=CC=CC=C1)C(NC)=O)=O)CCC1=CC=CC=C1)CCCCNC(=O)C1=CC=NC=C1 | C34H41N5O4S
